US04847263
3.1. 6-Chloro-2-(4-chlorophenyl)-8-methoxyimidazo[1,2-a]-pyridine
10 g (29.4 mmol) of 8-bromo-6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine, the preparation of which compound is described in the patent application filed this day entitled: Derives d'imidazopyridines, leur preparation et leur application en therapeutique (Imidazopyridine derivatives, their preparation and their application in therapy) by the Applicant, dissolved in 60 ml of hexamethylphosphorotriamide, are added to a solution of sodium methylate prepared using 2.03 g of sodium and 15 ml of methanol, the reaction mixture is brought to 60° C. for 2 h 30 min., water is added, the mixture is extracted with CH2Cl2, the organic phase is washed with water, dried over MgSO4 and filtered, and the filtrate is concentrated under reduced pressure. The evaporation residue is recrystallized in an ethyl acetate/hexane mixture. M.p. 150°-151° C.

reactant | 8-bromo-6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine | 29.4 mmol, 10 g | BrC=1C=2N(C=C(C1)Cl)C=C(N2)C2=CC=C(C=C2)Cl | C13H7BrCl2N2
reactant | Imidazopyridine | N1C=NC2=C1C=CC=N2 | C6H5N3
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 2.03 g | [Na] | Na
solvent | hexamethylphosphorotriamide | 60 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | water | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 6-Chloro-2-(4-chlorophenyl)-8-methoxyimidazo[1,2-a]-pyridine | ClC=1C=C(C=2N(C1)C=C(N2)C2=CC=C(C=C2)Cl)OC | C14H10Cl2N2O
